* C:\Users\stwal\OneDrive\entwickl\ESP32-Projects\IO-Hutschienenboard\DOKU\input_stage_realistic.asc
* Generated by LTspice 26.0.1 for Windows.
V_I01 N001 0 SINE(0 11.314 50)
D201 P001 N001 BAS316
L200 N002 P001 330µ
R201 5V N002 3.3k
R203 U1_K N002 560
D200 U1_K 5V SMBJ20A
R202 A2_I U1_E 3.3k
C200 A2_I 0 470n
X§U1 5V U1_K 3V3V U1_E PC817 Igain=2.3m ;§pnba A)K)C)E
R1 0 U1_E 1K tol=1 pwr=0.1
V1 5V 0 5 Rser=0
V2 3V3V 0 3.3 Rser=0
R2 Inp1 0 10k
A1 A2_I N003 0 0 0 Inp1 0 0 SCHMITT
R3 3V3V N003 10k
R4 N003 0 10k
.model D D
.lib C:\Users\stwal\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 200m 0 100u
.model BAS316 D(Is=1e-9 Rs=2 N=1.9 Cjo=2p)
.model SMBJ20A D(Is=1e-12 Rs=0.05 N=1.2 Bv=22 Ibv=1m Cjo=200p)
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\stwal\AppData\Local\LTspice\lib\sym\Optos\PC817C.asy)
.lib PC817.sub
.backanno
.end
